US08791132B2
A solution of 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzoicacid ethyl ester (90 mg, 0.229 mmol) in 25% ammonium hydroxide solution (5 mL) was stirred at 120° C. for 1 h. The progress of reaction was monitored by NMR and LCMS. The reaction mixture was cooled to RT, diluted with water and extracted with EtOAc (3×30 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzamide (3 mg) which was separated by chiral preparative HPLC to obtain 139a and 139b. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.18 (t, 2H), 7.4 (d, 1H), 7.31 (d, 2H), 7.23 (s, 1H), 7.03 (t, 1H), 5.08 (t,1H), 4.64 (dd, 1H), 4.33 (m, 2H), 4.21 (dd, 1H), 3.71 (t, 1H), 3.45 (bs, 1H), 3.12 (m, 1H), 3.09 (d, 3H), 2.6 (d, 1H), 2.41 (s, 3H).

reactant | 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzoicacid ethyl ester | 0.229 mmol, 90 mg | C(C)OC(C1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)O)=O | C24H28N2O3
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | water | O | H2O
product | 4-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-hydroxy-ethyl]-benzamide | 3 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C2=CC=C(C(=O)N)C=C2)CC1 | C22H25N3O2
